US05098918
4-(4-Methoxyphenyl)-1,2,3-thiadiazole (4)
The hydrazone (16.0 g, 68 mmol) derived from p-methoxyacetophenone and ethylcarbazate was added to 50 ml of SOCl2 and cooled in an ice bath. The reaction was warmed to room temperature and then heated at 60° C. for 1 hour. The reaction was cooled, and the solvent was removed under vacuum, affording a crude solid. The solid was recrystallized from ether affording 4 (9.95 g, 76%), m.p. 91°-93.5° C.

reactant | p-methoxyacetophenone | COC1=CC=C(C=C1)C(C)=O | C9H10O2
reactant | ethylcarbazate | C(C)OC(NN)=O | C3H8N2O2
reactant | SOCl2 | 50 ml | O=S(Cl)Cl | Cl2OS
product | 4-(4-Methoxyphenyl)-1,2,3-thiadiazole | COC1=CC=C(C=C1)C=1N=NSC1 | C9H8N2OS
